US07141574B2
3-Cyclohexenyl-6-indole carboxylic acid
A 12 L round-bottomed flask was equipped with a reflux condenser and a mechanical stirrer, and the system was purged with nitrogen gas. 6-Indole carboxylic acid (300.00 g, 1.86 mole, 3 equivalents) was charged into the flask, followed by MeOH (5.5 L). After stirring for 10 min at room temperature, cyclohexanone (579 mL, 5.58 mole) was added. Methanolic sodium methoxide (25% w/w, 2.6 L, 11.37 mole, 6.1 equivalents) was added in portions over 10 min. The mixture was then refluxed for 48 h. After cooling to room temperature, water (4 L) was added and methanol removed under reduced pressure. The residual aqueous phase was acidified to pH 1 with concentrated HCl (˜1.2 L). The resulting yellowish precipitate was collected by filtration, washed with water and dried under vacuum at 50° C. The desired cyclohexane derivative was obtained as a beige solid (451.0 g, 100% yield).

reactant | 6-Indole carboxylic acid | 1.86 mole, 300.00 g, 3 equivalents | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | MeOH | 5.5 L | CO | CH4O
reactant | cyclohexanone | 5.58 mole, 579 mL | C1(CCCCC1)=O | C6H10O
reactant | sodium methoxide | 11.37 mole, 2.6 L, 6.1 equivalents | C[O-].[Na+]
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | water | 4 L | O | H2O
product | 3-Cyclohexenyl-6-indole carboxylic acid | 451.0 g, 100% yield | C1(=CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H15NO2
